US07846960B2
1-(4-Benzyloxy-2-methyl-phenyl)-ethanone
To a solution of Hydroxy-2′-methylacetophenone (5.508 g, 0.037 mol) in DMF (10 mL) is added cesium carbonate (23.8 g, 0.073 mol). The reaction is stirred at room temperature for 10 minutes. Benzyl bromide (4.36 mL, 0.037 mol) is added and after 1 hour at room temperature, the reaction is concentrated under reduced pressure. The residue is dissolved in ethyl acetate and water. The layers are separated and the organic phase is washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound. ES/MS m/e 241.0 (M+1)

reactant | Hydroxy-2′-methylacetophenone | 0.037 mol, 5.508 g | OCC(=O)C1=C(C=CC=C1)C | C9H10O2
reactant | cesium carbonate | 0.073 mol, 23.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Benzyl bromide | 0.037 mol, 4.36 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-Benzyloxy-2-methyl-phenyl)-ethanone | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(C)=O)C | C16H16O2
